US08211401B2
A solution of (S)-di-tert-butyl 2-(3-((S)-6-amino-1-tert-butoxy-1-oxohexan-2-yl)ureido)pentanedioate (85 mg, 0.174 mmol), 11-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)undecanoic acid (118 mg, 0.127 mmol), EDCI (38 mg, 0.20 mmol), HOBt (26 mg, 0.20) and DIPEA (0.30 mL) in DCM (5.0 mL) was stirred at rt for overnight. The reaction mixture was purified by biotage eluting with 1% to 10% MeOH in DCM to afford (19S,23S)-tri-tert -butyl 1-(1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-2-((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)-13,21-dioxo-2,14,20,22-tetraazapentacosane-19,23,25-tricarboxylate (38 mg, 21%) as a colorless oil. 1H NMR (400 MHz, CDCl3) 6.95 (d, J=1.2 Hz, 2 H), 6.83 (d, J=0.80 Hz, 2 H), 5.97 (s, 1 H), 5.28 (d, J=7.6 Hz, 1 H), 5.23 (d, J=8.4 Hz, 1 H), 4.94 (s, 4 H), 4.33-4.25 (m, 2H), 4.12 (s, 4 H), 4.03 (s, 4 H), 3.63 (s, 4 H), 3.25-3.16 (m, 2 H), 2.53 (t, J=7.4 Hz, 2 H), 2.33-2.24 (m, 2 H), 2.15 (t, J=7.6 Hz, 2 H), 2.08-2.03 (m, 2 H), 2.02-1.20 (m, 85 H); MS (ESI), 701.6 (M/2+H)+.

reactant | (S)-di-tert-butyl 2-(3-((S)-6-amino-1-tert-butoxy-1-oxohexan-2-yl)ureido)pentanedioate | 0.174 mmol, 85 mg | NCCCC[C@@H](C(=O)OC(C)(C)C)NC(N[C@H](C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)=O | C24H45N3O7
reactant | 11-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)undecanoic acid | 0.127 mmol, 118 mg | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCCCCCCCCC(=O)O)CC=1N(C=CN1)CC(N(CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O)=O)CC(OC(C)(C)C)=O)=O | C47H77N7O12
reactant | EDCI | 0.20 mmol, 38 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.30 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | (19S,23S)-tri-tert -butyl 1-(1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-2-((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)-13,21-dioxo-2,14,20,22-tetraazapentacosane-19,23,25-tricarboxylate | 38 mg, 21% | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCCCCCCCCC(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CC=1N(C=CN1)CC(=O)N(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O | C71H120N10O18
